US07241791B2
Step 2: 4-(7-fluoro-1-isopropyl-1H-indazol-3-yl)phenol
Prepared according to Method D step C from 7-fluoro-1-isopropyl-3-(4-methoxyphenyl)-methyl-1H-indazole (0.065 g, 0.23 mmol), boron tribromide (0.10 mL, 1.05 mmol) and 0.3 mL of cyclohexene to give the product (0.047 g) as an off-white solid.

reactant | 7-fluoro-1-isopropyl-3-(4-methoxyphenyl)-methyl-1H-indazole | 0.23 mmol, 0.065 g | FC=1C=CC(=C2C(=NN(C12)C(C)C)C1=CC=C(C=C1)OC)C | C18H19FN2O
reactant | boron tribromide | 1.05 mmol, 0.10 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.3 mL | C1=CCCCC1 | C6H10
product | 4-(7-fluoro-1-isopropyl-1H-indazol-3-yl)phenol | 0.047 g | FC=1C=CC=C2C(=NN(C12)C(C)C)C1=CC=C(C=C1)O | C16H15FN2O
